US05300514
1-(Indole-2-carbonyl)-4,5-diphenyl-3-pyrazolidinone
Indole-2-carboxylic acid (1.35 g, 8.38 mmol), oxalyl chloride (4 mL), and DMF (3 drops) were added in order to 50 mL toluene, and stirred until gas evolution subsided and a homogeneous solution was obtained (c.20 min). Solvent was removed in vacuo, the residue taken up in CH2Cl2, and added to a solution of 4,5-diphenyl-3-pyrazolidinone (2.0 g, 8.40 mmol, 1.00 eq.) in 50 mL CH2Cl2 and 5 mL pyridine. After stirring overnight, the solution was washed with 1N HCl, dried over Na2SO4, and solvent removed in vacuo. The residual solid was stirred with CH2Cl2, filtered, and recrystallized from DMF:H2O to give 1.42 g (44%) white solid: mp 248°-50° C.

reactant | Indole-2-carboxylic acid | 8.38 mmol, 1.35 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4,5-diphenyl-3-pyrazolidinone | 8.40 mmol, 2.0 g, 1.00 eq. | C1(=CC=CC=C1)C1C(NNC1C1=CC=CC=C1)=O | C15H14N2O
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-(Indole-2-carbonyl)-4,5-diphenyl-3-pyrazolidinone | 1.42 g, 44% | N1C(=CC2=CC=CC=C12)C(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H19N3O2
